Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Dilantin Kapseal / Sulfa (Sulfonamide Antibiotics) / Lamictal / 
trazodone / Lyrica / ropinirole
 
Attending: ___
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
___:  Flexible sigmoidoscopy
___: colonoscopy with polyp removal

 
History of Present Illness:
___ male presenting for evaluation of abdominal
distention pain and constipation over the past 24 hours with
no gas. Patient has had 3 bottles of mag citrate and 1
gallon of water without bowel movement. No chest pain
shortness of breath. No fevers or chills. Patient had a
history of pyloric stenosis correction as a infant but
otherwise no abdominal surgeries. No history of bowel
obstructions.
               
 
Past Medical History:
EXCESSIVE DAYTIME SOMNOLENCE  
 MIGRAINE HEADACHES  
 NARCOLEPSY  
 OSTEOARTHRITIS  
 RESTLESS LEG SYNDROME  
 RESTLESS LEGS  
 ULNAR NEUROPATHY  
 VITAMIN D DEFICIENCY  
 GASTROESOPHAGEAL REFLUX  
 OSTEOPENIA  
 INSOMNIA  
 COLONIC ADENOMA  
 DEPRESSION  
 ROSACEA  
 BENIGN PROSTATIC HYPERTROPHY  
 OSTEOPOROSIS  

 
Social History:
Marital status: Married  
 Children: Yes  
 Lives with: ___  
 Sexual activity: Present  
 Sexual orientation: Female  
 Domestic violence: Denies  
 Contraception: None  
 Tobacco use: Former smoker  
 Alcohol use: Present  
 drinks per week: ___  
 Recreational drugs Denies  
 (marijuana, heroin,  
 crack pills or  
 other):  
 Depression: Over the past two weeks, the patient  
 expresses little interest or pleasure in  
 activity; Over the past two weeks, the  
 patient felt down, depressed or hopeless  

 
Family History:
Non-contributory
 
Physical Exam:
PHYSICAL EXAMINATION upon admission:  ___
Temp: 96.0 HR: 83 BP: 102/78 Resp: 19 O(2)Sat: 100 Normal
 Constitutional: Patient is in no acute distress
HEENT: Normocephalic, atraumatic, Pupils equal, round and
reactive to light, Extraocular muscles intact
Neck is supple
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Distended abdomen with mild diffuse tenderness to
palpation
Rectal: No evidence of impaction on resident exam
Extr/Back: No cyanosis, clubbing or edema
Skin: No rash, Warm and dry
Neuro: Speech fluent, moving all extremities
Psych: Normal mood, Normal mentation

PHYSICAL EXAMINATION upon discharge:  ___
General: No acute distress
HEENT:  Pupils equal and reactive to light
Cardiovascular: Regular Rate and Rhythm
Abdominal: Minimal tenderness to palpation
Neuro: Speech fluent, moving all extremities
Psych: Normal mood, Normal mentation
 

 
Pertinent Results:
___ 07:50AM BLOOD WBC-3.9* RBC-4.04* Hgb-13.1* Hct-39.1* 
MCV-97 MCH-32.4* MCHC-33.5 RDW-12.1 RDWSD-43.4 Plt ___
___ 11:08PM BLOOD WBC-5.5 RBC-4.45* Hgb-14.3 Hct-41.9 
MCV-94 MCH-32.1* MCHC-34.1 RDW-11.9 RDWSD-41.5 Plt ___
___ 11:08PM BLOOD Neuts-41.8 ___ Monos-8.9 Eos-4.2 
Baso-1.1* Im ___ AbsNeut-2.32 AbsLymp-2.41 AbsMono-0.49 
AbsEos-0.23 AbsBaso-0.06
___ 07:50AM BLOOD Plt ___
___ 07:50AM BLOOD Glucose-97 UreaN-17 Creat-0.9 Na-143 
K-4.4 Cl-106 HCO3-25 AnGap-12
___ 11:08PM BLOOD Glucose-94 UreaN-24* Creat-1.0 Na-144 
K-4.4 Cl-101 HCO3-31 AnGap-12
___ 11:08PM BLOOD ALT-15 AST-25 AlkPhos-36* TotBili-0.3
___ 07:50AM BLOOD Calcium-8.2* Phos-2.8 Mg-2.5
___ 12:24AM BLOOD Lactate-1.2

___:  x-ray of the abdomen:
Large colonic fecal load, with minimal feces in the rectum.  No 
radiographic evidence of bowel obstruction. 

___:  CT abdomen and pelvis:

1. No evidence of small-bowel obstruction. 
2. The distal small bowel and large bowel loops are filled with 
fluid without an abrupt transition point. 

___:  Sigmoidoscopy:

Findings:  

 Excavated Lesions Multiple diverticula with small openings were 
seen in the sigmoid colon.  

 Other No evidence of stricture or large mass  
 
Impression: Diverticulosis of the sigmoid colon
No evidence of stricture or large mass
Otherwise normal sigmoidoscopy to proximal descending colon 

  

 
Brief Hospital Course:
Mr. ___ is a ___ year old man with history of GERD, 
rectal adenoma (colonoscopy ___ who was admitted to acute care 
surgery after presenting with several weeks of abdominal pain 
concerning for possible bowel obstruction and potential 
stricture in the sigmoid colon.  The patient was admitted to 
___ on ___.

The patient was maintained on an NPO diet with intravenous 
fluids for hydration. On ___, he was given bowel prep and 
was taken for colonoscopy the following day. On ___, the 
patient underwent colonoscopy with gastroenterology. For details 
of the procedure please see the procedure note. During 
colonoscopy, the patient was found to have diverticulosis of the 
sigmoid colon, polyp of the proximal rectum, with an otherwise 
normal colonoscopy to the cecum. The patient was recommended for 
discharge based on these findings with a bowel regimen.

Prior to discharge, the patient was tolerating a diet, voiding 
without issues, with pain controlled with oral medications. Pt 
was given bowel regimen. The patient was given all appropriate 
follow up instructions and all questions were answered prior to 
discharge.
 
Medications on Admission:
HYDROCORTISONE-ACETIC ACID - hydrocortisone-acetic acid 1 %-2 %  

 ear drops. 2 drops in ear twice a day  
 LIDOCAINE - lidocaine 5 % topical patch. ___ patches apply to  
 affected area 12 hours on and ___ hours off as needed for pain  
 LITHIUM ORETATE - lithium oretate . 40 mg by mouth daily -  
 (Prescribed by Other Provider)  
 MODAFINIL - modafinil 200 mg tablet. TAKE 2 TABLETS BY MOUTH  
 EVERY DAY  
 OMEPRAZOLE - omeprazole 20 mg capsule,delayed release. TAKE 1  
 CAPSULE EVERY DAY  
 PRAMIPEXOLE - pramipexole 0.25 mg tablet. 1 TABLET(S) BY MOUTH 
AT  
 BEDTIME AS NEEDED FOR LEG SPASMS  
 SUMATRIPTAN SUCCINATE - sumatriptan 100 mg tablet. TAKE 1 
TABLET  
 AT ONSET OF MIGRAINE, MAY REPEAT ONCE IF NO RESPONSE WITHIN2  
 HOURS MAX 2 TABS PER DAY  
 TADALAFIL [CIALIS] - Cialis 10 mg tablet. TAKE 1 TABLET BY 
MOUTH  
 PRIOR TO INTERCOURSE  
 ZOLPIDEM - zolpidem 10 mg tablet. TAKE 1 TABLET BY MOUTH AT  
 BEDTIME AS NEEDED FOR INSOMNIA  
 
 Medications - OTC  
 CALCIUM CITRATE [CALCITRATE] - Calcitrate 200 mg (950 mg) 
tablet.  
 1 tablet(s) by mouth daily - (OTC)  
 CHOLECALCIFEROL (VITAMIN D3) - cholecalciferol (vitamin D3) 
2,000  
 unit capsule. 1 capsule(s) by mouth daily - (Prescribed by 
Other  
 Provider; ___)  
 MAGNESIUM - magnesium 250 mg tablet. 1 tablet(s) by mouth daily 
-  
 (OTC)  
 MELATONIN - melatonin 3 mg tablet. 2 tablet(s) by mouth at  
 bedtime - (OTC)  
 
 
Discharge Medications:
Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
HYDROCORTISONE-ACETIC ACID - hydrocortisone-acetic acid 1 %-2 %  

 ear drops. 2 drops in ear twice a day  
 LIDOCAINE - lidocaine 5 % topical patch. ___ patches apply to  
 affected area 12 hours on and 12 hours off as needed for pain  
 LITHIUM ORETATE - lithium oretate . 40 mg by mouth daily -  
 (Prescribed by Other Provider)  
 MODAFINIL - modafinil 200 mg tablet. TAKE 2 TABLETS BY MOUTH  
 EVERY DAY  
 OMEPRAZOLE - omeprazole 20 mg capsule,delayed release. TAKE 1  
 CAPSULE EVERY DAY  
 PRAMIPEXOLE - pramipexole 0.25 mg tablet. 1 TABLET(S) BY MOUTH 
AT  
 BEDTIME AS NEEDED FOR LEG SPASMS  
 SUMATRIPTAN SUCCINATE - sumatriptan 100 mg tablet. TAKE 1 
TABLET  
 AT ONSET OF MIGRAINE, MAY REPEAT ONCE IF NO RESPONSE WITHIN2  
 HOURS MAX 2 TABS PER DAY  
 TADALAFIL [CIALIS] - Cialis 10 mg tablet. TAKE 1 TABLET BY 
MOUTH  
 PRIOR TO INTERCOURSE  
 ZOLPIDEM - zolpidem 10 mg tablet. TAKE 1 TABLET BY MOUTH AT  
 BEDTIME AS NEEDED FOR INSOMNIA  
 
 Medications - OTC  
 CALCIUM CITRATE [CALCITRATE] - Calcitrate 200 mg (950 mg) 
tablet.  
 1 tablet(s) by mouth daily - (OTC)  
 CHOLECALCIFEROL (VITAMIN D3) - cholecalciferol (vitamin D3) 
2,000  
 unit capsule. 1 capsule(s) by mouth daily - (Prescribed by 
Other  
 Provider; ___)  
 MAGNESIUM - magnesium 250 mg tablet. 1 tablet(s) by mouth daily 
-  
 (OTC)  
 MELATONIN - melatonin 3 mg tablet. 2 tablet(s) by mouth at  
 bedtime - (OTC)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Possible large bowel obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with abdominal pain.  You were 
placed on bowel rest and underwent a cat scan.  You were 
reported to have colonic distention with possible decreased 
caliber in sigmoid colon. The GI service was consulted and you 
underwent a sigmoidoscopy which showed no strictures or masses 
in the lower portion of your colon.  Recommendations were made 
that you follow-up with your primary care provider to schedule ___ 
colonoscopy.  Your vital signs have been stable and you are 
being discharged with the following instructions:  

 
Followup Instructions:
___